US07696229B2
Hexane-2,5-dione (930 mg, 8.16 mmol) was added to a solution of 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1-(phenylsulfonyl)-1H-indol-6-amine (1.66 g, 1.13 mmol) in toluene (80 mL). Para-toluenesulfonic acid (30 mg, 0.17 mmol) was then added, and the resulting solution was stirred for 4 hours at 130° C. After filtration, the filtrate was concentrated and the residue was purified by column chromatography using a 30:1 dichloromethane/methanol solvent system. The product was washed with petroleum ether to afford 170 mg (32%) of 6-(2,5-dimethyl-1H-pyrrol-1-yl)-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1-(phenylsulfonyl)-1H-indole as a yellow solid. 1H NMR (DMSO) δ 8.3 (s, 1H), 8.3 (s, 1H), 8.1 (s, 1H), 8.0 (s, 1H), 7.8 (s, 1H), 7.6 (s, 1H), 7.4 (s, 1H), 7.4 (s, 1H), 7.1 (s, 1H), 6.3 (s, 1H), 5.8 (s, 1H), 5.8 (s, 1H), 3.0 (s, 2H), 2.27 (s, 3H), 2.6 (d, 2H), 2.6 (d, 2H), 1.8 (d, 3H), 1.8 (d, 3H). LC/MS (EI) tR 2.48, m/z 446.0 (M++1)

reactant | Hexane-2,5-dione | 8.16 mmol, 930 mg | CC(CCC(C)=O)=O | C6H10O2
reactant | 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1-(phenylsulfonyl)-1H-indol-6-amine | 1.13 mmol, 1.66 g | CN1CCC(=CC1)C1=CN(C2=CC(=CC=C12)N)S(=O)(=O)C1=CC=CC=C1 | C20H21N3O2S
reactant | Para-toluenesulfonic acid | 0.17 mmol, 30 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | 6-(2,5-dimethyl-1H-pyrrol-1-yl)-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1-(phenylsulfonyl)-1H-indole | 170 mg, 32% | CC=1N(C(=CC1)C)C1=CC=C2C(=CN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C=1CCN(CC1)C | C26H27N3O2S
